US06982274B2
As a raw material, 17.7 g of 1,5-dibromo-2,4-difluorobenzene obtained in Production Example II-5-a was subjected to lithiation with n-butyllithium by the procedure of Production Example II-5-b, was subjected to formylation with N,N-dimethylformamide, to give 10.7 g of 5-bromo-2,4-difluorobenzaldehyde. This compound was allowed to react with benzothiophene by the procedure of Production Example II-12-a to yield an alcohol, and then the alcohol was oxidized by the procedure of Production Example II-10-b, to give 9.7 g of the title compound as a colorless oil.

reactant | 1,5-dibromo-2,4-difluorobenzene | 17.7 g | BrC1=C(C=C(C(=C1)Br)F)F | C6H2Br2F2
reactant | n-butyllithium | C(CCC)[Li]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5-bromo-2,4-difluorobenzaldehyde | 10.7 g | BrC=1C(=CC(=C(C=O)C1)F)F | C7H3BrF2O
